US05534644
A solution of 155.5 g (1 mole) of 3,5-dichloro-2-pentanone with 83 g (1.024 moles) of sodium rhodanide in 1 liter of methyl-ethyl-ketone is boiled for 1 hour under stirring. Then the procedure described in Example 1 is followed. 171 g (96.2%) of 3-thiocyanato-5-chloro-2-pentanone are obtained, which after distillation identical in all respect with the product of Example 1.

reactant | 3,5-dichloro-2-pentanone | 1 mole, 155.5 g | ClC(C(C)=O)CCCl | C5H8Cl2O
reactant | sodium rhodanide | 1.024 moles, 83 g | C(#N)[S-].[Na+]
solvent | methyl-ethyl-ketone | 1 liter | CC(=O)CC | C4H8O
product | 3-thiocyanato-5-chloro-2-pentanone | 171 g, 96.2% | S(C#N)C(C(C)=O)CCCl | C6H8ClNOS
